US04550169
A 100 g portion of (N-2-hydroxypropyl)ethylenediamine was dissolved in 500 ml of ethanol, then cooled to -10° C. and 55 ml of carbon disulfide was added. Another 500 ml of ethanol was added, the mixture was stirred 30 minutes and then the precipitate was collected, washed with ether and dried. This solid was heated at 140°-150° C. until hydrogen sulfide evolution ceased and then cooled to room temperature. The solid was dissolved in 500 ml of boiling water, treated with charcoal, clarified and cooled at 4° C. overnight. The solid was collected, washed with water and dried at 60° C. in vacuo, giving 34.1 g of 1-(2-hydroxypropyl)-2-imidazolidinethione mp 101°-102° C.

reactant | (N-2-hydroxypropyl)ethylenediamine | OC(CNCCN)C | C5H14N2O
reactant | carbon disulfide | 55 ml | C(=S)=S | CS2
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-(2-hydroxypropyl)-2-imidazolidinethione | 34.1 g | OC(CN1C(NCC1)=S)C | C6H12N2OS
